US06448350B1
(a) Synthesis of t-butyl-Indene
42.0 g of indene (technical grade, 94 % by GC, 39.5 g, 340 mmol), 50 % w aqueous KOH (308 g in 308 nL) and 15.8 g of Adogen (Aldrich, 34 mnuol) dissolved in 139.7 g of tert-butylbromide (1019.6 mmol) were introduced in this order, at room temperature, in a 1 L, jacketed glass reactor with mechanical stirrer (Buïchi). The organic phase turns green. The mixture is heated to 60° C. and vigorously stirred for two hours (a pressure build-up to 2.5 bar-g is observed) and then cooled to room temperature. Total reaction time is 3 h. The organic phase is extracted with technical hexane (3×200mL) and analyzed by GC. Conversion: 74.5% w of 3-tert-butyl-indene and 1.8% of 1-tert-butyl-indene, unreacted indene 13.7% w. The solution was evaporated under reduced pressure (rotovac) and the resulting dark brown viscous liquid was distilled at 1 mmHg, collecting the fraction boiling between 70 and 80° C. (40 g, 76.8% of 3-tert-butyl-indene and 19.5% of 1-tert-butyl-indene, no indene).

reactant | indene | 340 mmol, 42.0 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | tert-butylbromide | 1019.6 mmol, 139.7 g | C(C)(C)(C)Br | C4H9Br
solvent | KOH | 308 nL, 308 g | [OH-].[K+]
product | t-butyl-Indene | C(C)(C)(C)C1C=CC2=CC=CC=C12 | C13H16
